US05792777
4-Bromo-4'-hydroxybiphenyl (2.49 g) was added over 30 minutes to a stirred suspension of sodium hydride (0.42 g of 60% dispersion in mineral oil) in dimethylformamide (10 ml) whilst keeping the temperature of the reaction mixture below 10° C. The reaction mixture was stirred at a temperature below 10° C. for a futher 5 minutes. Ethyl iodide (1.87 g) was added over 10 minutes and stirring continued at room temperature for 2 hours. Water (200 ml) was added to the mixture and the mixture extracted with diethyl ether (3×50 ml). The ether extracts were combined, washed with 1M sodium hydroxide solution (50 ml) and brine (50 ml), dried (MgSO4) and evaporated to give a residue which was crystallised from hexane to give, as a colourless solid, 4-bromo-4'-ethoxybiphenyl (2.15 g), m.p. 139° C.; NMR (CDCl3): 1.4(3H, t), 4.0-4.1(2H, q), 6.9(2H, d) and 7.35-7.55(6H, m).

reactant | 4-Bromo-4'-hydroxybiphenyl | 2.49 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9BrO
reactant | sodium hydride | 0.42 g | [H-].[Na+]
reactant | Ethyl iodide | 1.87 g | C(C)I | C2H5I
reactant | Water | 200 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-bromo-4'-ethoxybiphenyl | 2.15 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)OCC | C14H13BrO
